US05025031
Sulfamic acid 3-benzoylphenyl ester
This compound was prepared according to the procedure used in Example 56. A mixture of 9.9 g (0.05 mole) of 3-hydroxybenzophenone and 4.4 ml (7.1 g, 0.0505 mole) of chlorosulfonyl isocyanate in 75 ml of toluene gave a solid as residue. This residue was recrystallized sucessively from benzene and then methylene chloride to yield 4.2 g (30%) of the title compound as a white solid, mp 72°-74° C.

reactant | 3-hydroxybenzophenone | 0.05 mole, 9.9 g | OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H10O2
reactant | chlorosulfonyl isocyanate | 0.0505 mole, 4.4 ml, 7.1 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 3-benzoylphenyl ester | 4.2 g, 30% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)OS(N)(=O)=O | C13H11NO4S
